US05391552
1-Diphenylmethyl-4- (2-hydroxy-3-phenylaminopropyl)-piperazine (compound 1 ):
3.08 g (0.01 mol) of 1-(diphenylmethyl)-4-(2,3-epoxypropyl)piperazine and 0.93 g (0.01 mol) of aniline were refluxed with heating together with 200 ml of DMF for 21 hours in the presence of a catalytic amount of an alkali such as potassium carbonate. DMF was distilled off under reduced pressure, and a residue was extracted with ethyl acetate. After washing with water and drying, the ethyl acetate was distilled off under reduced pressure to obtain 4 g of a crude subject compound of a viscous liquid. The obtained compound was refined by flush chromatography and fractional thin-layer chromatography by using solvent mixtures of ethyl acetate--methanol and methylene chloride--methanol respectively to obtain 2 g of the subject compound as yellow crystals.

reactant | 1-(diphenylmethyl)-4-(2,3-epoxypropyl)piperazine | 0.01 mol, 3.08 g | C1(=CC=CC=C1)C(N1CCN(CC1)CC1CO1)C1=CC=CC=C1 | C20H24N2O
reactant | aniline | 0.01 mol, 0.93 g | NC1=CC=CC=C1 | C6H7N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-Diphenylmethyl-4- (2-hydroxy-3-phenylaminopropyl)-piperazine | 2 g | C1(=CC=CC=C1)C(N1CCN(CC1)CC(CNC1=CC=CC=C1)O)C1=CC=CC=C1 | C26H31N3O
